US05767131
A solution of N-methyl propionylacetamide (4.25 g, 32.9 mmol) in 30 ml xylene was bubbled with ammonia gas at 110° C. for 2 hrs. After cooling to room temperature, the mixture was diluted with 30 ml of CHCl3 and dried (Na2SO4). After evaporation of solvent, N-methyl 3-amino-2-pentenamide was obtained as light-gray oil (4.15 g, 98).

reactant | N-methyl propionylacetamide | 32.9 mmol, 4.25 g | CNC(CC(CC)=O)=O | C6H11NO2
reactant | ammonia | N | H3N
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl 3-amino-2-pentenamide | CNC(C=C(CC)N)=O | C6H12N2O
